US07022724B2
Methyl 2-bromomethyl-5-bromobenzoate (0.1 mol) was dissolved in THF/methanol (200 ml) (1:1) and the solution obtained was saturated with dry ammonia gas. The solvent was removed and the residue was triturated with water, diethyl ether and hexane and then recrystallised from ethanol/dichloromethane to obtain 6-bromo-2,3-dihydro-isoindol-1-one (12.5 g). 1H NMR (400 MHz, d6 DMSO) δ 8.70 (1H, bs), 7.78 (1H,s), 7.77 (1H, d, J=7 Hz), 7.55 (1H, d, J=7 Hz), 4.35 (2H,s). m/z (ES+) 212 (M+). b) 5-Bromo-3-methoxy-1H-isoindolium trifluoromethanesulfonate Prepared in a similar manner to that of Example 1a using 6-bromo-2,3-dihydro-isoindol-1-one. 1H NMR (360 MHz, CDCl3) δ 12.5 (1H, brs), 8.05 (1H,d, J=1 Hz), 7.94 (1H, dd, J=7 and 1 Hz), 7.66 (1H, dd, J=7 and 1 Hz), 5.07 (2H, s), 4.60 (3H, s). m/z (ES+) 226 (M+). c) (6-Bromo-3H-isoindol-1-yl)hydrazine 5-Bromo-3-methoxy-1H-isoindolium trifluoromethanesulfonate (3.7 g) was dissolved in THF (35 ml) and triethylamine (2.8 ml) was added followed by hydrazine (1 M in THF, 35 ml). After an hour the solid which had precipitated was filter off and dried to give title compound (2.8 g) 1H NMR (360 MHz, CDCl3) δ 12.5 (1H, brs), 7.85 (1H,d, J=1 Hz), 7.51 (1H, dd, J=7 and 1 Hz), 7.25 (1H, dd, J=7 and 1 Hz), 4.49 (2H, s). m/z (ES+) 226 (M+). d) 8-Bromo-3-(5-methyl-3-phenylisoxazol-4-yl)-5H-[1,2,4]triazolo[3,4-a]isoindole (6-Bromo-3H-isoindol-1-yl)hydrazine (2.8 g) was stirred in 10% trifluoroacetic acid in dichloromethane (40 ml) and 5-methyl-3-phenyl-4-isoxazole carboxaldehyde was added (2.33 g) and the reaction was stirred for 0.5 hours. The solvent was removed and the residue was partitioned between ethyl acetate and water and the organic layer was washed with saturated sodium hydrogen carbonate, dried, filtered and evaporated. The residue was taken up into methanol and dichloromethane, sodium acetate was added and the stirred suspension was treated dropwise with bromine (0.5 ml). The reaction was diluted with water and extracted into dichloromethane and dried, filtered and evaporated. The product was purified by silica chromatography using ethyl acetate as eluant to yield the title compound (1.46 g).

reactant | Methyl 2-bromomethyl-5-bromobenzoate | 0.1 mol | BrCC1=C(C(=O)OC)C=C(C=C1)Br | C9H8Br2O2
reactant | ammonia | N | H3N
solvent | THF methanol | 200 ml | C1CCOC1.CO
product | 6-bromo-2,3-dihydro-isoindol-1-one | 12.5 g | BrC1=CC=C2CNC(C2=C1)=O | C8H6BrNO
